US05071858
(1-[(6-Fluoro-3,4-dihydro-2H-1-benzothiopyran-3-yl)methyl]-4-piperidinyl)methyl p-fluorobenzoate
To a solution of 400 mg 6-fluoro-3-(4-[hydroxymethyl]-piperidinomethyl)-3,4-dihydro-2H-1-benzothiopyran and 200 mg triethylamine in 10 ml methylene chloride is added 221 mg p-fluorobenzoyl chloride. After 30 minutes at room temperature the reaction mixture is washed with 1 N sodium hydroxide, dried over magnesium sulfate and the solvent is removed in vacuo. The residue is triturated with ether/hexane to afford the title compound, m.p. 113°-114° C.

reactant | 6-fluoro-3-(4-[hydroxymethyl]-piperidinomethyl)-3,4-dihydro-2H-1-benzothiopyran | 400 mg | FC=1C=CC2=C(CC(CS2)CN2CCC(CC2)CO)C1 | C16H22FNOS
reactant | triethylamine | 200 mg | C(C)N(CC)CC | C6H15N
reactant | p-fluorobenzoyl chloride | 221 mg | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | (1-[(6-Fluoro-3,4-dihydro-2H-1-benzothiopyran-3-yl)methyl]-4-piperidinyl)methyl p-fluorobenzoate | FC1=CC=C(C(=O)OCC2CCN(CC2)CC2CSC3=C(C2)C=C(C=C3)F)C=C1 | C23H25F2NO2S
